US04696920
4-phenylpiperazine (41.4 g, 0.26 mol) was added to a solution of 4-(bromomethyl)benzonitrile (25 g, 0.13 mol) in 60 ml ethanol and the mixture was refluxed for one hour. After filtration of the precipitated N-phenylpiperazinium bromide, the filtrate was evaporated and the residue was recrystallized in a chloroform: acetone mixture to afford 28.6 g (79% yield) of 4-(4-phenylpiperazinylmethyl)benzonitrile.

reactant | 4-phenylpiperazine | 0.26 mol, 41.4 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-(bromomethyl)benzonitrile | 0.13 mol, 25 g | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(4-phenylpiperazinylmethyl)benzonitrile | 28.6 g, 79% yield | C1(=CC=CC=C1)N1CCN(CC1)CC1=CC=C(C#N)C=C1 | C18H19N3
